US09255094B2
To a solution of 7-isopropyl-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (500 mg, 2.1 mmol) in DMF (10 mL) was added sodium hydride (252 mg, 6.3 mmol). After stirring for 10 min at RT, 4-(2-methyl-oxiranyl)-pyridine (444 mg, 3.2 mmol) was added and stirring continued for another 16 h. The reaction mixture was poured into ice water and extracted with EtOAc. The organic layer was washed with water, dried over sodium sulfate and concentrated to afford crude product which was re-crystallized in ether and hexane to yield 1-(7-isopropyl-2-methyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-(pyridin-4-yl)propan-2-ol. 1H NMR (CD3OD, TFA salt) d (ppm): 8.60 (d, 2H), 8.05 (d, 2H), 7.25 (d, 1H), 6.90 (d, 1H), 6.78 (s, 1H), 4.65 (m, 1H), 4.42 (s, 2H), 4.30 (m, 1H), 3.90 (m, 1H), 3.60 (m, 2H), 3.30 (m, 1H), 3.10 (s, 3H), 2.85 (m, 1H), 1.80 (s, 3H), 1.18 (m, 6H).

reactant | 7-isopropyl-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 2.1 mmol, 500 mg | C(C)(C)C=1C=CC=2C3=C(NC2C1)CCN(C3)C | C15H20N2
reactant | sodium hydride | 6.3 mmol, 252 mg | [H-].[Na+]
reactant | 4-(2-methyl-oxiranyl)-pyridine | 3.2 mmol, 444 mg | CC1(OC1)C1=CC=NC=C1 | C8H9NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(7-isopropyl-2-methyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-(pyridin-4-yl)propan-2-ol | C(C)(C)C=1C=CC=2C3=C(N(C2C1)CC(C)(O)C1=CC=NC=C1)CCN(C3)C | C23H29N3O
